US07247752B2
Preparation of 2-(Triphenyl-phosphanylidene)-propionic acid ethyl ester
1.6 Kg (6.10 mol) triphenyl phosphine was dissolved in 10 L ethyl acetate and 1.0 Kg of ethyl 2-bromopropionate was added into the above solution. The reaction mixture was stirred at room temperature for 2 days. White solid was filtered off and the precipitate was washed with ethyl acetate. The resulting compound was dissolved in methanol and treated with saturated aqueous potassium carbonate. After stirring for 2 h, the yellow solid was filtered off and washed with water to give 1.5 Kg (75%) of desired product.

reactant | triphenyl phosphine | 6.10 mol, 1.6 Kg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 2-bromopropionate | 1.0 Kg | BrC(C(=O)OCC)C | C5H9BrO2
solvent | ethyl acetate | 10 L | C(C)(=O)OCC | C4H8O2
product | 2-(Triphenyl-phosphanylidene)-propionic acid ethyl ester | 1.5 Kg, 75% | C(C)OC(C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H23O2P
